US05334470
Synthesis of N-(4-methylphenyl)-N-[3-bis(4-methylphenyl)aminophenyl]-1-pyrenylamine (Compound No. 12 in Table 1)
A mixture of 2.79 g (7.00 mmol) of N-(4-methylphenyl)-N-(3-aminophenyl)-1-pyrenylamine synthesized in Synthesis Example 2, 15.3 g (70.0 mmol) of 4-iodotoluene, 3.87 g of potassium carbonate, and 0.44 g of copper powder was subjected to azeotropic dehydration in a stream of nitrogen, using an ester tube, with stirring, at 209° to 212° C. for 10 hours.

reactant | N-(4-methylphenyl)-N-(3-aminophenyl)-1-pyrenylamine | 7.00 mmol, 2.79 g | CC1=CC=C(C=C1)N(C1=CC(=CC=C1)N)C1=CC=C2C=CC3=CC=CC4=CC=C1C2=C34 | C29H22N2
reactant | 4-iodotoluene | 70.0 mmol, 15.3 g | IC1=CC=C(C=C1)C | C7H7I
reactant | potassium carbonate | 3.87 g | C([O-])([O-])=O.[K+].[K+]
catalyst | copper | 0.44 g | [Cu] | Cu
product | N-(4-methylphenyl)-N-[3-bis(4-methylphenyl)aminophenyl]-1-pyrenylamine | CC1=CC=C(C=C1)N(C1=CC(=CC=C1)N(C1=CC=C(C=C1)C)C1=CC=C(C=C1)C)C1=CC=C2C=CC3=CC=CC4=CC=C1C2=C34 | C43H34N2
